US07728155B2
Treatment of [(2R*,6R*,9S*)-5-methoxy-2,3,6,7,8,9-hexahydro-6,9-methanonaphtho[1,2-b]furan-2-yl]methyl 4-methylbenzenesulfonate (1.2 g, 2.30 mmol) with sodium azide (0.78 g, 11.99 mmol) generally according to the procedure described for Intermediate 24 gave (2R*,6R*,9S*)-2-(azidomethyl)-5-methoxy-2,3,6,7,8,9-hexahydro-6,9-methanonaphtho[1,2-b]furan. Treatment of the azide with palladium on carbon (10 wt. %, 0.10 g) generally according to the procedure described for Example 2 gave 0.45 g (53%) of (9-methoxy-4-oxatetracyclo[9.2.1.02,10.03,7]tetradeca-2,7,9-trien-5-yl)methylamine as a white solid, hydrochloride salt. mp>200° C. (dec); Anal. calcd. for C16H21NO2HCl: C, 63.94; H, 7.15; N, 4.97. Found: C, 64.68; H, 7.63; N, 4.5. Separation of the stereoisomers of (9-methoxy-4-oxatetracyclo[9.2.1.02,10.03,7]tetradeca-2,7,9-trien-5-yl)methylamine provided three compounds with >99% optical purity.

reactant | [(2R*,6R*,9S*)-5-methoxy-2,3,6,7,8,9-hexahydro-6,9-methanonaphtho[1,2-b]furan-2-yl]methyl 4-methylbenzenesulfonate | 2.30 mmol, 1.2 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1CC2=C(O1)C=1[C@H]3CC[C@@H](C1C(=C2)OC)C3 | C22H24O5S
reactant | sodium azide | 11.99 mmol, 0.78 g | [N-]=[N+]=[N-].[Na+]
product | (2R*,6R*,9S*)-2-(azidomethyl)-5-methoxy-2,3,6,7,8,9-hexahydro-6,9-methanonaphtho[1,2-b]furan | N(=[N+]=[N-])C[C@H]1CC2=C(O1)C=1[C@H]3CC[C@@H](C1C(=C2)OC)C3 | C15H17N3O2
